US07795288B2
[4-(2-Diethylamino-ethoxy)-phenyl]-[5-(3-thiophen-3-yl-phenyl)-thiazol-2-yl]-amine
The title compound is prepared as described in Example 8 for {5-[4-(3-dimethylamino-propoxy)-phenyl]-thiazol-2-yl}-phenyl-amine but starting from 4-[5-(3-thiophen-3-yl-phenyl)-thiazol-2-ylamino]-phenol and using (2-chloroethyl)-diethylamine hydrochloride. The title compound: ES-MS: 450.0 [M+H]+; single peak at tR=3.98 min (System 2); Rf=0.14 (CH2Cl2/MeOH, 90/10).

reactant | {5-[4-(3-dimethylamino-propoxy)-phenyl]-thiazol-2-yl}-phenyl-amine | CN(CCCOC1=CC=C(C=C1)C1=CN=C(S1)NC1=CC=CC=C1)C | C20H23N3OS
reactant | 4-[5-(3-thiophen-3-yl-phenyl)-thiazol-2-ylamino]-phenol | S1C=C(C=C1)C=1C=C(C=CC1)C1=CN=C(S1)NC1=CC=C(C=C1)O | C19H14N2OS2
reactant | (2-chloroethyl)-diethylamine hydrochloride | Cl.ClCCN(CC)CC
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | [4-(2-Diethylamino-ethoxy)-phenyl]-[5-(3-thiophen-3-yl-phenyl)-thiazol-2-yl]-amine | C(C)N(CCOC1=CC=C(C=C1)NC=1SC(=CN1)C1=CC(=CC=C1)C1=CSC=C1)CC | C25H27N3OS2
